US07713994B2
(Z)-6-Bromo-4-((2-(piperazin-1-yl)ethylamino)methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione (70.5 mg, 0.25 mmole), dimethylformamide (2 mL) and 2-(piperazin-1-yl)ethanamine (32.3 mg, 0.25 mmole) is stirred at room temperature for one hour. The reaction mixture is diluted with ether, filtered and washed with fresh ether and dried to give a light brown solid, 66.6 mg, (70% yield) MS (ES+): 379.2, (M+H).

reactant | 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione | 0.25 mmole, 70.5 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 2-(piperazin-1-yl)ethanamine | 0.25 mmole, 32.3 mg | N1(CCNCC1)CCN | C6H15N3
solvent | ether | CCOCC | C4H10O
product | (Z)-6-Bromo-4-((2-(piperazin-1-yl)ethylamino)methylene)isoquinoline-1,3(2H,4H)-dione | 70% yield | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCCN1CCNCC1 | C16H19BrN4O2
